* Arm C oscillator 6: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm C oscillator 6: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.2563
Cg0 i1_A 0 7.449900e-17
Cg1 nand_Y 0 7.449900e-17
Cc0 i1_A nand_B 1.820290e-17
Cx0 i1_A 0 1.046840e-16
Rn1_1 i1_Y i2_A 19.4973
Cg2 i2_A 0 3.781590e-17
Cg3 i1_Y 0 3.781590e-17
Cx1 i2_A 0 4.340130e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 9.533350e-17
Cg5 i10_Y 0 9.533350e-17
Cc1 i11_A i12_A 3.999180e-17
Cc2 i11_A i10_A 5.876220e-17
Rn11_3 i11_Y i12_A 21.1313
Cg6 i12_A 0 1.195380e-16
Cg7 i11_Y 0 1.195380e-16
Cc3 i12_A i13_A 3.028690e-17
Cc4 i12_A i14_A 0.000000e+00
Rn12_4 i12_Y i13_A 21.3813
Cg8 i13_A 0 1.417400e-16
Cg9 i12_Y 0 1.417400e-16
Cc5 i13_A i14_A 3.028690e-17
Cc6 i13_A i15_A 0.000000e+00
Rn13_5 i13_Y i14_A 21.1313
Cg10 i14_A 0 1.413450e-16
Cg11 i13_Y 0 1.413450e-16
Cc7 i14_A i15_A 2.609490e-17
Rn14_6 i14_Y i15_A 21.3813
Cg12 i15_A 0 1.654590e-16
Cg13 i14_Y 0 1.654590e-16
Cx2 i15_A 0 0.000000e+00
Cx3 i15_A 0 6.440470e-17
Rn15_7 i15_Y s1046_12 20.9875
Rn15_8 s1046_12 buf_A 9.3000
Rn15_9 s1046_12 i16_A 10.8134
Cg14 i16_A 0 6.998290e-17
Cg15 buf_A 0 0.000000e+00
Cg16 i15_Y 0 1.131890e-16
Cg17 s1046_12 0 1.831720e-16
Cc8 s1046_12 nand_B 1.464740e-16
Cx4 s1046_12 0 3.884350e-17
Cx5 i16_A 0 1.564790e-16
Cx6 s1046_12 0 1.499110e-16
Rn16_10 i16_Y i17_A 19.4973
Cg18 i17_A 0 4.268950e-17
Cg19 i16_Y 0 4.268950e-17
Cx7 i17_A 0 9.233640e-17
Rn17_11 i17_Y i18_A 19.4973
Cg20 i18_A 0 3.355400e-17
Cg21 i17_Y 0 3.355400e-17
Cx8 i18_A 0 9.572150e-17
Rn18_12 i18_Y i19_A 19.4973
Cg22 i19_A 0 3.355400e-17
Cg23 i18_Y 0 3.355400e-17
Cx9 i19_A 0 9.572150e-17
Rn19_13 i19_Y i20_A 19.4973
Cg24 i20_A 0 3.355400e-17
Cg25 i19_Y 0 3.355400e-17
Cx10 i20_A 0 9.572150e-17
Rn2_14 i2_Y i3_A 19.4973
Cg26 i3_A 0 5.339630e-17
Cg27 i2_Y 0 5.339630e-17
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 3.355400e-17
Cg29 i20_Y 0 3.355400e-17
Cx11 i21_A 0 9.572150e-17
Rn21_16 i21_Y i22_A 19.4973
Cg30 i22_A 0 3.500600e-17
Cg31 i21_Y 0 3.500600e-17
Cc9 i22_A i23_A 1.673050e-17
Cx12 i22_A 0 9.277880e-17
Rn22_17 i22_Y i23_A 30.2652
Cg32 i23_A 0 1.363950e-16
Cg33 i22_Y 0 1.363950e-16
Cc10 i23_A i24_A 2.808530e-17
Cx13 i23_A 0 0.000000e+00
Cx14 i23_A 0 1.951990e-17
Cx15 i23_A 0 2.826600e-18
Cx16 i23_A 0 1.281540e-16
Rn23_18 i23_Y i24_A 20.8277
Cg34 i24_A 0 1.159940e-16
Cg35 i23_Y 0 1.159940e-16
Cc11 i24_A i25_A 3.929970e-17
Rn24_19 i24_Y i25_A 21.1313
Cg36 i25_A 0 1.167420e-16
Cg37 i24_Y 0 1.167420e-16
Cc12 i25_A i26_A 3.028690e-17
Cc13 i25_A i27_A 0.000000e+00
Cx17 i25_A 0 1.004420e-17
Rn25_20 i25_Y i26_A 21.3813
Cg38 i26_A 0 1.310300e-16
Cg39 i25_Y 0 1.310300e-16
Cc14 i26_A i27_A 3.028690e-17
Cc15 i26_A i28_A 0.000000e+00
Cx18 i26_A 0 2.417650e-17
Rn26_21 i26_Y i27_A 21.1313
Cg40 i27_A 0 7.738800e-17
Cg41 i26_Y 0 7.738800e-17
Cc16 i27_A i28_A 3.028690e-17
Cc17 i27_A i29_A 0.000000e+00
Cx19 i27_A 0 1.450400e-16
Rn27_22 i27_Y i28_A 21.3813
Cg42 i28_A 0 1.310300e-16
Cg43 i27_Y 0 1.310300e-16
Cc18 i28_A i29_A 3.028690e-17
Cc19 i28_A i30_A 0.000000e+00
Cx20 i28_A 0 2.417650e-17
Rn28_23 i28_Y i29_A 21.1313
Cg44 i29_A 0 9.747900e-17
Cg45 i28_Y 0 9.747900e-17
Cc20 i29_A i30_A 2.609490e-17
Cx21 i29_A 0 1.372030e-16
Rn29_24 i29_Y i30_A 21.3813
Cg46 i30_A 0 1.390670e-16
Cg47 i29_Y 0 1.390670e-16
Cc21 i30_A nand_B 1.669550e-17
Cx22 i30_A 0 4.277630e-17
Rn3_25 i3_Y i4_A 19.4973
Cg48 i4_A 0 5.339630e-17
Cg49 i3_Y 0 5.339630e-17
Rn30_26 i30_Y nand_B 35.6982
Cg50 nand_B 0 3.129070e-16
Cg51 i30_Y 0 3.129070e-16
Cx23 nand_B 0 6.051610e-18
Cx24 nand_B 0 1.602990e-16
Cc22 EN nand_B 3.342950e-17
Cx25 nand_B 0 1.383230e-17
Cx26 nand_B 0 8.079510e-17
Cx27 nand_B 0 1.569970e-16
Cx28 nand_B 0 1.019590e-16
Rn4_27 i4_Y i5_A 19.4973
Cg52 i5_A 0 5.339630e-17
Cg53 i4_Y 0 5.339630e-17
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 5.339630e-17
Cg55 i5_Y 0 5.339630e-17
Rn6_29 i6_Y i7_A 19.4973
Cg56 i7_A 0 5.518400e-17
Cg57 i6_Y 0 5.518400e-17
Cc23 i7_A i8_A 1.673050e-17
Rn7_30 i7_Y i8_A 30.2652
Cg58 i8_A 0 1.353460e-16
Cg59 i7_Y 0 1.353460e-16
Cc24 i8_A i9_A 2.808530e-17
Cx29 i8_A 0 4.033180e-17
Cx30 i8_A 0 1.232880e-16
Rn8_31 i8_Y i9_A 20.8277
Cg60 i9_A 0 1.242650e-16
Cg61 i8_Y 0 1.242650e-16
Cc25 i9_A i10_A 3.929970e-17
Rn9_32 i9_Y i10_A 21.2027
Cg62 i10_A 0 1.473890e-16
Cg63 i9_Y 0 1.473890e-16
Cg64 buf_X 0 4.416500e-16

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
