* Arm C oscillator 7: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm C oscillator 7: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.1313
Cg0 i1_A 0 4.448010e-17
Cg1 nand_Y 0 4.448010e-17
Cx0 i1_A 0 4.133880e-17
Cx1 i1_A 0 1.322050e-16
Rn1_1 i1_Y i2_A 19.4973
Cg2 i2_A 0 1.431770e-17
Cg3 i1_Y 0 1.431770e-17
Cx2 i2_A 0 5.269610e-17
Cx3 i2_A 0 9.527920e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 9.939900e-17
Cg5 i10_Y 0 9.939900e-17
Cc0 i11_A i12_A 2.546480e-17
Cc1 i11_A i13_A 0.000000e+00
Cc2 i11_A i10_A 6.688760e-17
Rn11_3 i11_Y i12_A 21.0643
Cg6 i12_A 0 1.348200e-16
Cg7 i11_Y 0 1.348200e-16
Cc3 i12_A i13_A 2.873230e-17
Rn12_4 i12_Y i13_A 20.8277
Cg8 i13_A 0 1.008010e-16
Cg9 i12_Y 0 1.008010e-16
Cc4 i13_A i14_A 6.704510e-17
Rn13_5 i13_Y i14_A 21.2563
Cg10 i14_A 0 1.140820e-16
Cg11 i13_Y 0 1.140820e-16
Cc5 i14_A i15_A 7.265400e-17
Rn14_6 i14_Y i15_A 21.2563
Cg12 i15_A 0 1.260500e-16
Cg13 i14_Y 0 1.260500e-16
Cc6 i15_A s1079_12 1.402400e-17
Rn15_7 i15_Y s1079_12 20.5768
Rn15_8 s1079_12 buf_A 9.8357
Rn15_9 s1079_12 i16_A 10.4027
Cg14 i16_A 0 1.968130e-17
Cg15 buf_A 0 2.044260e-17
Cg16 i15_Y 0 8.672420e-17
Cg17 s1079_12 0 1.268480e-16
Cc7 s1079_12 nand_B 1.506250e-16
Cx4 i16_A 0 5.643810e-17
Cx5 buf_A 0 2.593550e-17
Cx6 s1079_12 0 5.037870e-17
Cx7 i16_A 0 1.156150e-16
Cx8 buf_A 0 5.330050e-17
Rn16_10 i16_Y i17_A 19.4973
Cg18 i17_A 0 1.431770e-17
Cg19 i16_Y 0 1.431770e-17
Cx9 i17_A 0 5.269610e-17
Cx10 i17_A 0 9.527920e-17
Rn17_11 i17_Y i18_A 19.4973
Cg20 i18_A 0 1.392220e-17
Cg21 i17_Y 0 1.392220e-17
Cx11 i18_A 0 5.258570e-17
Cx12 i18_A 0 9.528480e-17
Rn18_12 i18_Y i19_A 19.4973
Cg22 i19_A 0 1.511960e-17
Cg23 i18_Y 0 1.511960e-17
Cx13 i19_A 0 5.170130e-17
Cx14 i19_A 0 9.479740e-17
Rn19_13 i19_Y i20_A 19.4973
Cg24 i20_A 0 1.511960e-17
Cg25 i19_Y 0 1.511960e-17
Cx15 i20_A 0 5.170130e-17
Cx16 i20_A 0 9.479740e-17
Rn2_14 i2_Y i3_A 19.4973
Cg26 i3_A 0 1.392220e-17
Cg27 i2_Y 0 1.392220e-17
Cx17 i3_A 0 5.258570e-17
Cx18 i3_A 0 9.528480e-17
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 1.511960e-17
Cg29 i20_Y 0 1.511960e-17
Cx19 i21_A 0 5.170130e-17
Cx20 i21_A 0 9.479740e-17
Rn21_16 i21_Y i22_A 19.4973
Cg30 i22_A 0 1.511960e-17
Cg31 i21_Y 0 1.511960e-17
Cx21 i22_A 0 5.170130e-17
Cx22 i22_A 0 9.479740e-17
Rn22_17 i22_Y i23_A 30.4170
Cg32 i23_A 0 1.342540e-16
Cg33 i22_Y 0 1.342540e-16
Cc8 i23_A i24_A 5.765250e-17
Cx23 i23_A 0 3.801920e-17
Cx24 i23_A 0 4.636990e-17
Cx25 i23_A 0 4.298520e-17
Cx26 i23_A 0 3.490050e-17
Rn23_18 i23_Y i24_A 20.8277
Cg34 i24_A 0 5.790640e-17
Cg35 i23_Y 0 5.790640e-17
Cc9 i24_A i25_A 2.546480e-17
Cx27 i24_A 0 5.445640e-17
Cx28 i24_A 0 6.948100e-17
Rn24_19 i24_Y i25_A 21.0643
Cg36 i25_A 0 7.245980e-17
Cg37 i24_Y 0 7.245980e-17
Cc10 i25_A i26_A 2.999310e-17
Cc11 i25_A i27_A 0.000000e+00
Cx29 i25_A 0 2.011340e-17
Cx30 i25_A 0 1.867650e-16
Rn25_20 i25_Y i26_A 20.8277
Cg38 i26_A 0 5.538980e-17
Cg39 i25_Y 0 5.538980e-17
Cc12 i26_A i27_A 2.546480e-17
Cc13 i26_A i28_A 0.000000e+00
Cx31 i26_A 0 1.374100e-16
Cx32 i26_A 0 2.489800e-17
Rn26_21 i26_Y i27_A 21.0643
Cg40 i27_A 0 6.404120e-17
Cg41 i26_Y 0 6.404120e-17
Cc14 i27_A i28_A 2.873230e-17
Cc15 i27_A i29_A 1.874320e-17
Cx33 i27_A 0 2.191010e-17
Cx34 i27_A 0 1.867650e-16
Rn27_22 i27_Y i28_A 20.8277
Cg42 i28_A 0 4.985080e-17
Cg43 i27_Y 0 4.985080e-17
Cc16 i28_A i29_A 5.129480e-17
Cc17 i28_A i30_A 0.000000e+00
Cx35 i28_A 0 1.422830e-16
Cx36 i28_A 0 2.537680e-17
Rn28_23 i28_Y i29_A 21.2563
Cg44 i29_A 0 7.001060e-17
Cg45 i28_Y 0 7.001060e-17
Cc18 i29_A i30_A 5.114260e-17
Cx37 i29_A 0 1.292550e-17
Cx38 i29_A 0 8.900420e-17
Rn29_24 i29_Y i30_A 21.2563
Cg46 i30_A 0 1.064820e-16
Cg47 i29_Y 0 1.064820e-16
Cc19 i30_A nand_B 2.629080e-17
Cx39 i30_A 0 1.140150e-16
Rn3_25 i3_Y i4_A 19.4973
Cg48 i4_A 0 1.511960e-17
Cg49 i3_Y 0 1.511960e-17
Cx40 i4_A 0 5.170130e-17
Cx41 i4_A 0 9.479740e-17
Rn30_26 i30_Y nand_B 34.8411
Cg50 nand_B 0 3.067660e-16
Cg51 i30_Y 0 3.067660e-16
Cx42 nand_B 0 9.104310e-18
Cx43 nand_B 0 2.826600e-18
Cx44 nand_B 0 3.649670e-16
Cc20 EN nand_B 5.807060e-18
Cx45 nand_B 0 9.246280e-18
Cx46 nand_B 0 0.000000e+00
Cx47 nand_B 0 2.566940e-17
Cx48 nand_B 0 1.879550e-17
Rn4_27 i4_Y i5_A 19.4973
Cg52 i5_A 0 1.511960e-17
Cg53 i4_Y 0 1.511960e-17
Cx49 i5_A 0 5.170130e-17
Cx50 i5_A 0 9.479740e-17
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 1.511960e-17
Cg55 i5_Y 0 1.511960e-17
Cx51 i6_A 0 5.170130e-17
Cx52 i6_A 0 9.479740e-17
Rn6_29 i6_Y i7_A 19.4973
Cg56 i7_A 0 1.511960e-17
Cg57 i6_Y 0 1.511960e-17
Cx53 i7_A 0 5.170130e-17
Cx54 i7_A 0 9.479740e-17
Rn7_30 i7_Y i8_A 30.4170
Cg58 i8_A 0 1.455520e-16
Cg59 i7_Y 0 1.455520e-16
Cc21 i8_A i9_A 5.765250e-17
Cx55 i8_A 0 1.013700e-16
Cx56 i8_A 0 3.490050e-17
Rn8_31 i8_Y i9_A 20.8277
Cg60 i9_A 0 9.888920e-17
Cg61 i8_Y 0 9.888920e-17
Cc22 i9_A i10_A 4.002820e-17
Rn9_32 i9_Y i10_A 21.2027
Cg62 i10_A 0 1.212750e-16
Cg63 i9_Y 0 1.212750e-16
Rout_33 buf_X s1104_14 40.8536
Cg64 buf_X 0 1.362210e-15
Cg65 s1104_14 0 1.362210e-15
Cx57 s1104_14 0 6.258900e-18
Cx58 s1104_14 0 2.728870e-17
Cx59 s1104_14 0 9.646020e-17
Cx60 s1104_14 0 1.403060e-17
Cx61 s1104_14 0 0.000000e+00
Cx62 s1104_14 0 3.343660e-17
Cx63 s1104_14 0 1.223270e-15
Cx64 s1104_14 0 2.622390e-16
Cx65 s1104_14 0 1.728500e-17
Cx66 s1104_14 0 2.263270e-17
Cx67 s1104_14 0 1.755050e-16

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
